Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Codeine
 
Attending: ___
 
Chief Complaint:
pelvic mass 
 
Major Surgical or Invasive Procedure:
exploratory laparotomy, bilateral salinpingo-oophorectomy, and 
surgical resection of pelvic mass
 
History of Present Illness:
Ms. ___ is a ___ woman who presented with new 
finding of pelvic mass on CT scan after she experienced 
abdominal discomfort and distention for several months.  She 
felt as if she had "a lumpy abdomen."  On physical examination, 
an abdominal irregularity was identified and this led to a CT 
scan of the abdomen and pelvis with contrast on ___.  The 
imaging study revealed a large complex cyst of the right adnexa 
measuring 13 x 23 x 26 cm.  The mass was notably 
well-circumscribed, ovoid, and complex in nature and extended 
into the upper abdomen. The limited evaluation of the uterus and 
the left adnexa was unremarkable and there was no other evidence 
of an irregularity that would make us concerned for the 
possibility of metastatic ovarian cancer at the time. She denies 
any family history for ovarian cancer. She opted for exploratory 
laparotomy, bilateral salinpingo-oophorectomy, and resection of 
pelvic mass. 
 
Past Medical History:
PMH:
1. legally blind
2. asthma, well controlled
3. hypothyroidism
PSH:
1. ___ tonsillectomy
OB/GYN History:  
Gravida 0 woman.  She went through menopause in ___ and denies 
any history of postmenopausal bleeding.  She denies any history 
of abnormal Pap smears or history of pelvic infections.
 
Social History:
___
Family History:
She reports her father died of complications after a 
cholecystectomy.  She reports her sister and mother both had 
benign cysts of the ovaries, which led to hysterectomies and 
BSOs at a perimenopausal time period.  She reports a paternal 
aunt with breast cancer and a paternal cousin with colon cancer 
at an early age, the age of ___.
 
Physical Exam:
PRIOR TO ADMISSION:
General: The patient appears her stated age.  
Abdominal exam: Significant for distention and a mobile mass 
that distends the abdomen to above the umbilicus.

Physical Examination at discharge:
GENERAL: NARD, comfortable, well-appearing
CV: RRR
LUNGS: CTAB
ABDOMEN: Soft, appropriately tender, nondistended, no rebound or 
guarding
INCISION: Vertical midline incision with staples clean, dry, 
intact
GU: Peripad dry
EXTREMITIES: Nontender
 
Pertinent Results:
___ 07:30AM BLOOD WBC-12.1*# RBC-4.35 Hgb-12.4# Hct-37.1# 
MCV-85 MCH-28.6 MCHC-33.5 RDW-12.8 Plt ___
___ 07:30AM BLOOD Glucose-132* UreaN-7 Creat-0.6 Na-139 
K-4.8 Cl-103 HCO3-28 AnGap-13
___ 07:30AM BLOOD Calcium-8.8 Phos-3.1 Mg-1.7

___ 07:30PM BLOOD WBC-11.8* RBC-4.41 Hgb-12.7 Hct-38.8 
MCV-88 MCH-28.7 MCHC-32.7 RDW-12.9 Plt ___
___ 07:30PM BLOOD Glucose-129* UreaN-7 Creat-0.7 Na-139 
K-3.9 Cl-103 HCO3-26 AnGap-14
___ 07:30PM BLOOD Calcium-9.1 Phos-1.9* Mg-2.3

___ 08:15AM BLOOD WBC-9.5 RBC-4.15* Hgb-11.9* Hct-35.9* 
MCV-86 MCH-28.6 MCHC-33.1 RDW-12.9 Plt ___
___ 08:15AM BLOOD Glucose-119* UreaN-6 Creat-0.6 Na-141 
K-3.5 Cl-105 HCO3-27 AnGap-13
___ 08:15AM BLOOD Calcium-8.6 Phos-2.1* Mg-2.1
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecology oncology service 
after undergoing exploratory laparatomy, bilateral 
salpingo-oophorectomy, and resection of pelvic mass. Please see 
the operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, she received a TAP block in the PACU. On the 
floor, her pain was controlled with Dilaudid PCA, IV toradol, 
and tylenol. 

On post-operative day 1, she experienced an episode of dizziness 
and low blood pressure, which was attributed to a vaso-vagal 
episode as she had a normal ECG, normal blood glucose, and 
negative orthostatics. Her diet was advanced without difficulty 
and she was transitioned to PO oxycodone, acetaminophen and 
motrin. Her urine output was adequate so her Foley catheter was 
removed and she voided spontaneously. 

On post-operative day 2, she remained hemodynamically stable and 
was tolerating a regular diet, voiding spontaneously, ambulating 
independently, and pain was controlled with oral medications. 
She was then discharged home in stable condition with outpatient 
follow-up scheduled.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate 110mcg 2 PUFF IH DAILY 
2. Levothyroxine Sodium 125 mcg PO DAILY 
3. Lorazepam 0.5 mg PO Q8H:PRN anxiety 
4. Ascorbic Acid ___ mg PO BID 
5. Multivitamins 1 TAB PO DAILY 
 
Discharge Medications:
1. Fluticasone Propionate 110mcg 2 PUFF IH DAILY 
2. Lorazepam 0.5 mg PO Q8H:PRN anxiety 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0
5. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*0
6. Ascorbic Acid ___ mg PO BID 
7. Multivitamins 1 TAB PO DAILY 
8. Acetaminophen ___ mg PO Q6H 
do not exceed 4000 mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
adnexal mass
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions:  

* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks.  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
  
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have staples, they will be removed at your follow-up 
visit.  
 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___. 
 
Call your doctor for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing  
 
Followup Instructions:
___